US08003649B2
A solution of 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (49 mg, 0.22 mmol) in EtOH (1.0 mL) was added to a mixture of 3-phenylpiperidine (53 mg, 0.33 mmol) and DIPEA (57 μL, 0.33 mmol) in EtOH (1.0 mL). The reaction mixture was heated to 70° C. overnight and the crude product was purified by preparative LCMS (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 5% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to give 6-(3-phenylpiperidin-1-yl)-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (46 mg, 61%).

reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.22 mmol, 49 mg | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | 3-phenylpiperidine | 0.33 mmol, 53 mg | C1(=CC=CC=C1)C1CNCCC1 | C11H15N
reactant | DIPEA | 0.33 mmol, 57 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 1.0 mL | CCO | C2H6O
solvent | EtOH | 1.0 mL | CCO | C2H6O
product | 6-(3-phenylpiperidin-1-yl)-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 46 mg, 61% | C1(=CC=CC=C1)C1CN(CCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C17H16F3N5
